US06790860B2
(2S,4R)-2-aminomethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid benzyl ester and 2,5-difluorobenzaldehyde and subsequent cleavage of the trityl protecting group analogously to reductive amination and deprotection gave (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-mercapto-pyrrolidine-1-carboxylic acid benzyl ester as colorless oil, MS: 393 (MH+).

reactant | (2S,4R)-2-aminomethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN | C32H32N2O2S
reactant | 2,5-difluorobenzaldehyde | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
product | (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-mercapto-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)S)CNCC1=C(C=CC(=C1)F)F | C20H22F2N2O2S
